**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 0
* SIMULATION TYPE: ac_point_dc_list
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/calibration/src/templates/mosfet_level_1/nmos/dut.cir

** Start testbenches

********************* dut testbench 21_1 *********************
v_gs_ac_21_1 g_21_1 g_ac_21_1 DC 0 AC 1
e_gs_21_1 g_ac_21_1 0 v_sweep 0 1
v_ds_21_1 d_21_1 0 0.0
v_s_21_1 s_21_1 0 0
v_bs_21_1 b_21_1 0 1.0
x_21_1 d_21_1 g_21_1 s_21_1 b_21_1 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut vto = 0.5560696417388288
alterparam dut kp = 0.00022973654374805466
alterparam dut gamma = 0.02895741901434129
alterparam dut phi = 0.05791483802868258
alterparam dut rd = 1.4278982751990845
alterparam dut rs = 0.11582967605736516
alterparam dut cbd = 1.484336816360469e-19
alterparam dut cbs = 1.8904523865005416e-20
alterparam dut is = 1.8328582900325297e-15
alterparam dut pb = 0.7902812684659888
alterparam dut cgso = 3.794446032038467e-20
alterparam dut cgdo = 1.3320956719293494e-18
alterparam dut cgbo = 2.36720991735245e-17
alterparam dut rsh = 5.6902562132561325
alterparam dut cj = 6.073727792518479e-07
alterparam dut mj = 0.3313971778070685
alterparam dut cjsw = 2.5433367473226856e-15
alterparam dut mjsw = 0.05791483802868258
alterparam dut tox = 2.62456449268145e-07
alterparam dut nsub = 8.020695857269856e+17
alterparam dut nss = 569044731273731.6
alterparam dut nfs = 11524517181.039333
alterparam dut tpg = 2.6909747893168894
alterparam dut xj = 3.794446032038483e-15
alterparam dut ld = 3.0563904911705027e-09
alterparam dut uo = 458.4213508018038
alterparam dut vmax = 1467.6005787759975
alterparam dut kf = 3.794446032038467e-30
alterparam dut af = 0.2895741901434129
alterparam dut fc = 2.650009826950765
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_21_1)

** Write the header of the results file.
echo "vgs,cgs_21_1" > /home/gazi/Desktop/Work/custom_packages/calibration/test/mosfet_level_1/results/calibration_2023-06-25_23:50:19/simulation_files/ac_point_dc_list_0.csv

** Start the simulation loop.
set values_list = ( -2.0 -1.95 -1.8 -1.75 -1.7 -1.65 -1.6 -1.55 -1.5 -1.45 -1.4 -1.35 -1.3 -1.25 -1.2 -1.15 -1.1 -1.05 -1.0 -0.95 -0.9 -0.85 -0.8 -0.75 -0.7 -0.65 -0.6 -0.55 -0.5 -0.45 -0.4 -0.35 -0.3 -0.25 -0.2 -0.15 -0.1 -0.05 1.20737e-15 0.05 0.1 0.15 0.2 0.25 0.3 0.35 0.4 0.45 0.5 0.55 0.6 0.65 0.7 0.75 0.8 0.85 0.9 0.95 1.0 1.05 1.1 1.15 1.2 1.25 1.3 1.35 1.4 1.45 1.5 1.55 1.6 1.65 1.7 1.75 1.8 1.85 1.9 1.95 2.0 )
foreach val $values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgs_21_1 = abs(imag(i(v_s_21_1)))/2*pi*10000.0

    echo "$val,$&cgs_21_1" >> /home/gazi/Desktop/Work/custom_packages/calibration/test/mosfet_level_1/results/calibration_2023-06-25_23:50:19/simulation_files/ac_point_dc_list_0.csv
end

.endc
********** End of control section **********

.end